US05468898
To a solution 5-benzyloxyindole (2.23 g, 10 mmol) in 5 ml of tetrahydrofuran (THF), cooled in an external ice bath, is added dropwise with stirring 6.15 ml of a 2 molar solution of methyl magnesium bromide in diethyl ether. The resulting mixture is stirred for an additional 15 minutes in the ice bath and a solution of 3-carbmethoxybenzoyl chloride in 10 ml of THF is added dropwise. The cooling bath is removed and the reaction mixture is stirred at room temperature for 18 hours. Water is then added, followed by ethyl acetate. The layers are separated. The organic layer is dried (MgSO4) and concentrated in vacuo. The residue obtained is purified by a silica gel column, eluting with a solvent system of 25% ethyl acetate in hexane to give 5-benzyloxy-3-(3-carbomethoxybenzoyl)indole. NMR confirms this structure.

reactant | 5-benzyloxyindole | 10 mmol, 2.23 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | methyl magnesium bromide | C[Mg]Br
reactant | 3-carbmethoxybenzoyl chloride | C(=O)(OC)C=1C=C(C(=O)Cl)C=CC1 | C9H7ClO3
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 10 ml | O1CCCC1 | C4H8O
product | 5-benzyloxy-3-(3-carbomethoxybenzoyl)indole | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)C(C1=CC(=CC=C1)C(=O)OC)=O | C24H19NO4
